US07384963B2
N-[4-(2-Hydroxyethyl)benzyl]-2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxamide was prepared from 2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxylic acid and 4-(2-hydroxyethyl)benzylamine using method H. NMR; δH [2H6]—DMSO 9.11,(1H, t), 7.99,(2H, d), 7.89,(1H, dd), 7.76,(1H, d), 7.56-7.51,(3H, m), 7.24,(2H, d), 7.16,(2H, d), 4.62,(1H, t), 4.46,(2H, d), 3.55,(2H, q), 2.69,(2H, t), 2.56,(3H, s), 2.31,(3H, s). LCMS; retention time 3.00 min, MH+ 428.

reactant | 2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxylic acid | CC1=C(C=C(C=C1)C=1OC(=NN1)C)C1=CC=C(C=C1)C(=O)O | C17H14N2O3
reactant | 4-(2-hydroxyethyl)benzylamine | OCCC1=CC=C(CN)C=C1 | C9H13NO
product | N-[4-(2-Hydroxyethyl)benzyl]-2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxamide | OCCC1=CC=C(CNC(=O)C2=CC=C(C=C2)C2=C(C=CC(=C2)C=2OC(=NN2)C)C)C=C1 | C26H25N3O3
